US07906504B2
A neat mixture of 3-(4-fluoro-3-methoxyphenyl)-7-(4-methoxybenzyloxy)isochromen-1-one (100 mg, 0.25 mmol) and 2-amino-N-tert-butyl acetamide (INTERMEDIATE I.2) (32 mg, 2.46 mmol) was heated at 120° C. for 3 h. The reaction mixture was cooled and partitioned between ethyl acetate and sat. NH4Cl (aq.). The organic layer was washed with brine (1×20 mL), dried (MgSO4) and concentrated in vacuo to afford N-tert-butyl-2-(3-(4-fluoro-3-methoxyphenyl)-7-(4-methoxybenzyloxy)-1-oxo-1H-isoquinolin-2-yl)acetamide (120 mg, 0.23 mmol, 94%) which was used in the next step without further purification.

reactant | 3-(4-fluoro-3-methoxyphenyl)-7-(4-methoxybenzyloxy)isochromen-1-one | 0.25 mmol, 100 mg | FC1=C(C=C(C=C1)C=1OC(C2=CC(=CC=C2C1)OCC1=CC=C(C=C1)OC)=O)OC | C24H19FO5
reactant | 2-amino-N-tert-butyl acetamide | 2.46 mmol, 32 mg | NCC(=O)NC(C)(C)C | C6H14N2O
product | N-tert-butyl-2-(3-(4-fluoro-3-methoxyphenyl)-7-(4-methoxybenzyloxy)-1-oxo-1H-isoquinolin-2-yl)acetamide | 0.23 mmol, 120 mg, 94% | C(C)(C)(C)NC(CN1C(C2=CC(=CC=C2C=C1C1=CC(=C(C=C1)F)OC)OCC1=CC=C(C=C1)OC)=O)=O | C30H31FN2O5
